US07569600B2
To a solution of 5-cyclohex-1-enyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid (22 mg, 0.05 mmol) in dry MeOH (1 ml) was added 10% palladium on charcoal (3 mg). The resulting reaction mixture was placed under H2 atmosphere, stirred at room temperature for 16 h, and then filtered on celite and evaporated to dryness. The crude product was purified by flash chromatography using CH2Cl2:MeOH hexanes as eluent to to give 5-cyclohexyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid (7 mg, 32%).

reactant | 5-cyclohex-1-enyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | 0.05 mmol, 22 mg | C1(=CCCCC1)C1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O | C25H35NO4S
solvent | MeOH | 1 ml | CO | CH4O
catalyst | palladium on charcoal | 3 mg | [Pd] | Pd
product | 5-cyclohexyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | 7 mg, 32% | C1(CCCCC1)C1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O | C25H37NO4S
